US04900752
6,6-dimethyl-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To a mixture of 80 mg (0.289 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole and 5 ml of dried tetrahydrofuran were added 25 mg of sodium hydride (oil, content of more than 55%) with stirring for 1 hour at the room temperature. After the mixture was carefully added with water and extracted thrice with ethyl acetate. The combined ethyl acetate layer was washed successively with 0.5N hydrochloric acid, water and saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was subjected to a preparative thin layer column chromatography using a developing solvent of ethyl acetate-methanol (10:1 (v/v)) to obtain 24 mg (yield: 32%) of the intended compound. The obtained compound was recrystallized from ethanol to obtain the pure intended compound.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 80 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(C)=O)O)C | C13H15N3O4
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 25 mg | [H-].[Na+]
solvent | water | O | H2O
product | 6,6-dimethyl-8-acetylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 24 mg, yield: 32% | CC1(C=C(C=2C(=CC=3C(=NON3)C2)O1)NC(C)=O)C | C13H13N3O3
